US07312330B2
Methyl 2-(4-(4-(trifluoromethyl)phenylamino)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yloxy)acetate
Methyl glycolate (31 mg, 0.33 mmol) was dissolved in DMF (dry), NaH (8 mg, 0.31 mmol) was added and stirred at room temperature under an atmosphere of Nitrogen for 30 min. 7-(3-Chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylsulfonyl)pyrido[3,4-d]pyrimidin-4-amine (120.0 mg, 0.22 mol) (in 4 mL DMF, dry) was added to the above mixture. The reaction was heated via microwave at 180° C. for 15 minutes. Solvent was removed and the residue was purified by flash chromatography over silica gel to obtain the product as a white solid (25 mg).

reactant | Methyl glycolate | 0.33 mmol, 31 mg | C(CO)(=O)OC | C3H6O3
reactant | NaH | 0.31 mmol, 8 mg | [H-].[Na+]
reactant | 7-(3-Chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylsulfonyl)pyrido[3,4-d]pyrimidin-4-amine | 0.22 mol, 4 mL, 120.0 mg | ClC=1C(=NC=CC1)N1CC=2N=C(N=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)C | C20H17ClF3N5O2S
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 2-(4-(4-(trifluoromethyl)phenylamino)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yloxy)acetate | 25 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=C(N1)OCC(=O)OC)CN(CC2)C2=NC=CC=C2Cl)(F)F | C22H19ClF3N5O3
